US06150373
A solution of 5 g (11.5 mmol) of 5-(2,4-dichloroanilinomethyl)-4-(4-methoxy-benzyloxy)-2-methylthiopyrimidine in 30 ml of trifluoroacetic acid was heated at reflux for 20 minutes, cooled and evaporated. The product was purified by flash chromatography on silica gel using ethyl acetate/isohexane in a ratio of 1:2 as eluent. Product-containing fractions were combined and evaporated to give 1.2 g (24%) of 5-[2,4-dichloroanilinomethyl]-2-methylthio-3H-pyrimidin-4-one as a pale yellow solid. [Mass spectrum (ESI) MH+ =316].

reactant | 5-(2,4-dichloroanilinomethyl)-4-(4-methoxy-benzyloxy)-2-methylthiopyrimidine | 11.5 mmol, 5 g | ClC1=C(NCC=2C(=NC(=NC2)SC)OCC2=CC=C(C=C2)OC)C=CC(=C1)Cl | C20H19Cl2N3O2S
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-[2,4-dichloroanilinomethyl]-2-methylthio-3H-pyrimidin-4-one | 1.2 g, 24% | ClC1=C(NCC=2C(NC(=NC2)SC)=O)C=CC(=C1)Cl | C12H11Cl2N3OS
